Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pravastatin / simvastatin
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F w/ HFpEF, PAD (s/p b/l iliac stents ___, 
axillary-bifemoral bypass ___ on apixaban), epistaxis, recent 
UGIB due to gastric AVMs s/p argon photocoagulation) admitted 
from home with dyspnea. 

Patient reports day prior to admission, she felt shortness of 
breath, and developed a cough productive of wet sputum. She had 
subjective fevers but no rigors. She had no sick contacts. She 
has no episodes of coughing or aspirating while eating food. She 
reports subjective weight loss. 
She also denies orthopnea but is visibly short of breath when 
lying in bed and improved when sitting up. 

She also notes feeling a bit lightheaded as she walks around 
which she has had for months. She notes that has been getting 
the urge to eat ice, which happens periodically. 

Her last epistaxis was two weeks ago, and she has not had any 
hematochezia, melena or hematemesis. Stools have been dark, but 
she takes iron pills and they always appear that way.

She presented to the emergency room. TMax was 99.1, HR 103-110, 
SBP 146-162/78-90, RR ___, initially spO2 87 on room air, now 
97% of 4 liters. 

Labs notable for WBC 12.4 (hx of unexplained leukocytosis, Hgb 
6.6, Hct 23.6. CXR showed edema with concern for possible Right 
lower lobe infiltrate. 

She was given IV levofloxacin and admitted to medicine.
 
Past Medical History:
HFpEF
CAD
PVD 
- left common and external iliac stent in ___
- right common and external iliac artery stents in ___.
- s/p Axillary-bifemoral bypass ___ 
DMII
CKD (GFR ___ here, previously reported as CKD4) 
Hypertension
Diverticulosis of colon
Renal artery stenosis, native, bilateral
Gastric AVMs s/p argon photocoagulation ___ 
 
Social History:
___
Family History:
Brother with T2DM
Father with T2DM
Mother with T2DM, ovarian cancer
 
Physical Exam:
ADMISSION EXAM
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: OP clear, nonerythematous 
CV: Heart regular, no murmur, no S3, no S4.  Reported as no JVP 
.
RESP: Coarse BS in bilateral lower lobes, no wheezes, bronchial 
BS in right lobs
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 
WBC-12.4* RBC-2.85* Hgb-6.6* Hct-23.6* MCV-83 MCH-23.2* 
MCHC-28.0* RDW-21.4* RDWSD-62.9* Plt ___

___ 
WBC-8.4 RBC-3.75* Hgb-9.0* Hct-30.9* MCV-82 MCH-24.0* MCHC-29.1* 
RDW-21.1* RDWSD-62.8* Plt ___

___ 
WBC-12.6* RBC-2.93* Hgb-6.7* Hct-24.0* MCV-82 MCH-22.9* 
MCHC-27.9* RDW-19.6* RDWSD-58.0* Plt ___

___
Glucose-135* UreaN-11 Creat-0.8 Na-134* K-3.7 Cl-89* HCO3-29 
AnGap-16

___ 
calTIBC-356 Ferritn-36 TRF-274

CTA 
1.  No evidence of pulmonary embolism or aortic abnormality.
2.  New peribronchovascular ground-glass and nodular opacities, 
which most
likely represent an infectious or inflammatory process and may 
be related to
aspiration.
3.  Mild interstitial pulmonary edema.  Trace bilateral pleural 
effusions.
4.  Stable mediastinal lymphadenopathy, which may be related to 
heart failure.

ECHO
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect or right-to-left shunt on color Doppler 
or agitated saline at rest. The estimated right atrial pressure 
is >15mmHg. There is normal left ventricular wall thickness with 
a normal cavity size. Overall left ventricular systolic function 
is severely depressed. Quantitative biplane left ventricular 
ejection fraction is 28 % (normal 54-73%). There is no resting 
left ventricular outflow tract gradient. Normal right 
ventricular cavity size with mild global free wall hypokinesis. 
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. There is a normal 
descending aorta diameter. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is an 
eccentric jet of mild [1+] mitral regurgitation. Due to the 
Coanda effect, the severity of mitral regurgitation could be 
UNDERestimated. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is a trivial pericardial 
effusion.
Compared with the prior TTE ___ , biventricular function 
has decreased.

DISHCARGE LABS: 
___ 06:20AM BLOOD WBC-10.0 RBC-3.60* Hgb-8.7* Hct-30.1* 
MCV-84 MCH-24.2* MCHC-28.9* RDW-20.6* RDWSD-61.3* Plt ___
___ 07:40AM BLOOD UreaN-18 Creat-1.1 Na-134* K-3.8 Cl-90* 
HCO3-28 AnGap-16
___ 07:40AM BLOOD Mg-1.9
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
- DC weight of 114.2lb; please insure no active change in dry 
weight on follow up
- pt has been losing dry weight as well over past several 
months, with a reported lower interest in food (see below); I 
wonder whether there is some issue with difficulty cooking for 
herself contributing; may be worth investigating resources on 
outpatient side

___ w/ HFpEF, PAD (s/p iliac stents ___, renal artery stenosis, 
and axillary-bifemoral bypass ___ on apixaban), recurrent 
epistaxis, recent UGIB due to gastric AVMs s/p argon 
photocoagulation who is admitted from home with dyspnea treated 
with 5 days of levaquin but with continued hypoxia ___ CHF, also 
found to have Hgb 6.6 transfused with 2 units of pRBCs. 

#) Acute hypoxemic respiratory failure
#) Acute on chronic diastolic heart failure
#) Acute systolic heart failure
#) Community acquired pneumonia 
Patient initially admitted with nonspecific symptoms but mainly 
subjective dyspnea. 
On ___, plan was for discharge home but patient triggered for 
hypoxia to ___ and tachypnea to ___. She required 5L NC when I 
assumed her care. At home she does not use oxygen. Initially her 
lungs had crackles and JVP was upto jaw. Of note, she did not 
have peripheral edema. She is supposed to be on bumex 2 PO 
daily. Patient told me she had no idea she was on a diuretic and 
did not have this medication on a printed home medication list 
she showed me. We started her on lasix 40 IV daily with 
improvement over the course of several days back to 1L NC. She 
intermittently was on RA, but would then require 1L NC during 
the night. She was transitioned to torsemide 40 PO daily on ___. 
Even when on RA, she had subjective dyspnea. This improved with 
incentive spirometry and chest ___, as well as guifenesin. CTA 
was done that showed some mucus plugging and ? e/o aspiration. 
SLP felt she was swallowing well on bedside eval and no video 
was necessary. She was seen by the pulmonary service who 
recommended treatment for emphysema with bronchodilators and 
LAMA. BNP then obtained that was over 4K, and ECHo shows newly 
depressed EF, demonstrating her symptoms are from decompensated 
heart failure. Diuresed with IV Lasix 120 BID as effective dose 
and breathing improved. Off O2 for 48h before DC and able to 
ambulate without difficulty. DC weight of 114.2lb. Will have ___ 
see her and set up cards, PCP ___.

#) Acute blood loss anemia
#) PAD s/p stents, bypass on apixaban
#) Gastric AVMs s/p APC 
Patient did not have any active signs of bleeding but had Hgb 
6.6 for which she received 2 units of pRBCS on admission. This 
may have also precipitated worsened edema for her. Her Hgb 
remained stable after the tranfusions. 
She has a history of epistaxis, but none while here. 
She also had recent EGD and ___ in ___ and had APC done to 
gastric AVMs. She also had a CT A/P in ___ which did not 
show any acute changes. 
She is elderly, has some component of CKD and is on apixaban for 
severe PAD s/p stents ad bypass, making her high risk for 
bleeding. 
She had an iron deficit of approximately 700 mg, had received 
two ___ transfusions, so she was scheduled for 3 infusions of 
ferrous gluconate 125 mg to make up for iron deficit.

#weight loss: Pt describes dry weight loss and a lack of 
interest in food. She denies dysphagia, odynophagia, choking, 
early satiety, night sweats. Pt lives alone and cooks for 
herself. She says she 'doesn't know what to cook'. Denies 
depressed mood. I suspect a component of having difficulty 
preparing food for herself or obtaining, as she was seen in 
house to eat well and enjoy meals. DC weight of 114.2. ___ 
benefit from nutrition or SW as outpatient

Greater than ___ hour spent on care on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Atorvastatin 80 mg PO QPM 
3. Bumetanide 2 mg PO DAILY 
4. Omeprazole 40 mg PO BID 
5. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
6. Sucralfate 1 gm PO BID 
7. Ranitidine 75 mg PO BID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. amLODIPine 10 mg PO DAILY 
10. BuPROPion (Sustained Release) 150 mg PO BID 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 
capsule inhaled once a day Disp #*30 Capsule Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Apixaban 5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Bumetanide 2 mg PO DAILY 
RX *bumetanide 2 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
7.  BuPROPion (Sustained Release) 150 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
Do Not Crush  
10.  Omeprazole 40 mg PO BID  
11.  Ranitidine 75 mg PO BID  
12.  Sucralfate 1 gm PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PNA
CHF 
Acute blood loss anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to this hospital with shortness of breath. You 
were treated for a pneumonia. 
You were also found to have anemia and were given 2 units of 
blood. 
You stayed in the hospital because you had a lot of fluid in 
your lungs because your heart is weak. You were given 
medications called diuretics to help remove this fluid to make 
you feel better. 
 
Followup Instructions:
___